US09447078B2
To a mixture of methyl 6-(piperidin-4-ylmethoxy)picolinate (0.3 g, 1.2 mmol), Et3N (0.2 g, 1.8 mmol) in DCM (10 ml) was added ethyl chloroformate (0.2 g, 1.8 mmol) at 0° C. The reaction was warmed to room temperature, washed with 1N HCl (20 ml), dried over Na2SO4 and concentrated under reduced pressure to give methyl 6-((1-(ethoxycarbonyl)piperidin-4-yl)methoxy)picolinate which used in the next step without further purification. Yield (0.38 g, quant.).

reactant | methyl 6-(piperidin-4-ylmethoxy)picolinate | 1.2 mmol, 0.3 g | N1CCC(CC1)COC1=CC=CC(=N1)C(=O)OC | C13H18N2O3
reactant | Et3N | 1.8 mmol, 0.2 g | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.8 mmol, 0.2 g | ClC(=O)OCC | C3H5ClO2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | methyl 6-((1-(ethoxycarbonyl)piperidin-4-yl)methoxy)picolinate | C(C)OC(=O)N1CCC(CC1)COC1=CC=CC(=N1)C(=O)OC | C16H22N2O5
